Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ woman with a past medical history of
connective tissue disease on hydroxychloroquine, hypertension,
and CKD sent by her PCP  ___ ___ for herpes zoster affecting the
T4 dermatome and with concern for disseminated zoster.

The patient began having chest wall pain about a week ago that
progressed over the last 24 hours to a rash with vesicles around
her breast and her back. She also complains of sharp, shock-like
and shooting pains on the left side of her forehead, and in 
front
of her ears. The pain is intermittent, not aggravated by 
anything
particular. She denies fever, chills, dizziness, headaches,
numbness, tingling, weakness, chest pain, shortness of breath. 

In the ED, initial vitals were:
T 98.3 P 64 BP 157/83 RR 18 O2sat 100% RA 

ED exam revealed no skin changes to the face, pupils equal,
round, and reactive to light. However, there was T4 dermatomal
vesicular rash on erythematous base around breasts, axilla and
left back. 

Labs were notable for: 
BUN 21 and Creat 1.3

The patient was given:
Acyclovir 450 mg x3. First dose not preceded by fluid but
received LR after; second and third doses preceded by 500 cc NS.
Also received acetaminophen, morphine x1, and home gabapentin 
and
citalopram. 

Consults:
Ophthalmology saw the patient on ___ and noted:
Left-sided facial pain:
 -No evidence of zoster ophthalmicus/intraocular zoster on
examination today
 -Afferent visual function fully intact
 -Good temporal artery pulse with no temple tenderness to
palpation, GCA ROS unimpressive
 -Unclear source of L facial pain, could be trigeminal or
occipital neuralgia
  -Reconsult ophthalmology if any new or worsening vision/eye
symptoms 

Infectious disease was consulted; recommended 10 mg/kg every 8 
of
acyclovir

Patient arrived on the floor on ___. On arrival to the floor, 
the
patient is feeling well. She is not currently having any pain 
but
says that zapping pain comes and goes on the left side of her
face, affecting the skin beneath her eye up to her forehead. She
denies hearing loss, dizziness, changes in vision, as well as
fevers, cough, abdominal pain, changes in urination. She says 
she
first developed pain to the left side of her chest around 5 days
before the rash appeared. Facial and eye pain have been going on
for 3 days. 

 
Past Medical History:
Connective Tissue Disease
Hypertension
CKD III
Spinal stenosis
arthritis
total hysterectomy
Cesarean section x2
 
Social History:
___
Family History:
no pertinent history
 
Physical Exam:
admission

VITALS: 
T 97.3F PO BP 141/84 HR75 RR 18 O2 97 RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
No rashes, no vesicles
NECK: Neck is supple
CHEST: Vesicular rash extends across the left side of the chest,
just above the nipple, up to and not past the midline. In ED,
cardiac exam had regular rate and rhythm, normal ___ and ___
heart sounds, no ___ heart sound. Cardiac exam not performed
because patient wanted to shower.
LUNGS: No increased work of breathing. Im ED, lung sounds were
clear. Again, lung exam not performed because patient wanted to
shower.
BACK: Vesicular rash extends across the left side of the back,
wrapping around from the front at level just above the nipple, 
up
to and not passed the midline
ABDOMEN: Non distended, non-tender to palpation.
EXTREMITIES: No clubbing, cyanosis. 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

Discharge

24 HR Data (last updated ___ @ 432)
    Temp: 98.5 (Tm 98.5), BP: 139/78 (126-164/77-92), HR: 61
(61-74), RR: 18, O2 sat: 96% (96-99), O2 delivery: RA    
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
No rashes, no vesicles
NECK: Neck is supple
CHEST: Vesicular rash extends across the left side of the chest,
just above the nipple, up to and not past the midline, fluid
filled vesicles present. 
LUNGS: No increased work of breathing. No crackles. CTAB 
ABDOMEN: Non distended, non-tender to palpation.
EXTREMITIES: No clubbing, cyanosis. 
SKIN: Warm. Cap refill <2s. rash as above
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
Admission
=========

___ 03:20PM BLOOD WBC-6.2 RBC-4.44 Hgb-12.8 Hct-40.8 MCV-92 
MCH-28.8 MCHC-31.4* RDW-12.8 RDWSD-43.2 Plt ___
___ 03:20PM BLOOD Glucose-131* UreaN-21* Creat-1.3* Na-138 
K-3.6 Cl-104 HCO3-24 AnGap-10
___ 07:57AM BLOOD Calcium-8.1* Phos-3.3 Mg-1.8

Discharge
==========

___ 07:42AM BLOOD WBC-4.5 RBC-3.99 Hgb-11.5 Hct-37.2 MCV-93 
MCH-28.8 MCHC-30.9* RDW-12.5 RDWSD-42.6 Plt ___
___ 07:42AM BLOOD UreaN-13 Creat-1.3* Na-139 K-5.4 Cl-101 
HCO3-26 AnGap-12
___ 07:42AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0
 
Brief Hospital Course:
Patient is a ___ woman with a past medical history of 
connective tissue disease on hydroxychloroquine, CKDIII, and HTN
who was admitted for herpes zoster probably over T3 dermatome 
and symptoms of potential impending zoster outbreak on the left 
side of the face (most likely V1 distribution) concerning for 
herpes zoster.

ACUTE/ACTIVE ISSUES:
====================
# Herpes zoster infection
Concern for disseminated herpes zoster as patient has zoster 
outbreak affecting left probably T3 or T4 distribution as well 
as symptoms consistent with impending outbreak on left side of 
face that may affect the V1 distribution. Seen by ophtho in ED - 
no concern for
herpes ophthalmicus at that time (5PM on ___. ID consulted and 
recommended IV acyclovir until new lesions stopped forming, 
which occurred ___. She was switched to PO valacyclovir on ___. 
Gave 500cc pre-hydration for each IV acylocivr dose. A rash 
never erupted on her face. Gave tylenol, oxy, home gabpentin for 
pain. She was advised to avoid contact with pregnant women, 
babies and immunocompromised people and to keep the rash covered 
until it is all crusted over.

#CKD III 
___ analgesic nephropathy per outside records. Prehydrated for 
acyclovir.

CHRONIC/STABLE ISSUES:
======================
# HTN
- Continued home lisinopril 

#Connective Tissue Disease
- Continued home hydroxychloroquine 300 mg daily

#Hypocalcemia
- Continued home calcium and vitamin D supplements

Transitional Issues
==============
[] valaciclovir 1000mg TID through ___
[] please offer shingrix vaccine once rash resolves
[] Please monitor for development of post-herpatic neuralgia

# CODE: Full Code
# CONTACT:
Next of Kin: ___
 Relationship: OTHER
 Phone: ___
Next of Kin: ___
 Phone: ___

>30 minutes in patient care and coordination of discharge ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Citalopram 20 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Hydroxychloroquine Sulfate 300 mg PO DAILY 
5. estradiol 0.01 % (0.1 mg/gram) vaginal DAILY:PRN 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
2.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times a day 
Disp #*31 Tablet Refills:*0 
3.  Citalopram 20 mg PO DAILY  
4.  estradiol 0.01 % (0.1 mg/gram) vaginal DAILY:PRN  
5.  Gabapentin 600 mg PO TID  
6.  Hydroxychloroquine Sulfate 300 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
herpes zoster

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You had a rash and pain concerning for shingles infection

What did you receive in the hospital?
- You were treated with IV medicine to treat the shingles 
infection
- The infectious disease team was consulted and recommended you 
stay for IV medicine until your rash was better

What should you do once you leave the hospital?
- Please avoid direct contact with any pregnant women, young 
babies or children, and any person with a compromised immune 
system until your rash crusts over completely. Keep the rash 
covered until it crusts over completely.
- Contact your doctor if the rash gets bigger or spreads to a 
new area
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___